US08791132B2
Methanesulfonic acid 2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c] fluoren-6-yl)-1-pyrazin-2-yl-ethyl ester (300 mg, 0.70 mmol) in 40% dimethylamine in water (20 mL) was heated at 90° C. for 1 h. The reaction mixture was cooled to RT and extracted with DCM (12×50 mL)The combined organic layer was dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 60 mg of dimethyl-[2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyrazin-2-yl-ethyl]-amine. 1H NMR (CD3OD, TFA salt): δ (ppm): 8.1 (s, 1H), 7.4(s, 1H), 7.1 (d, 1H), 5.1 (t, 1H), 4.42 (m, 2H), 3.6 (m, 3H), 3.2 (m, 1H), 3.17 (m, 1H), 3.15 (s, 6H), 2.85 (m, 2H), 2.63 (m, 1H), 2.42 (s, 3H), 2.3 (m, 2H), 2.15 (m, 1H). Chiral HPLC separates the racemate into diastereomers II-7a-d.

reactant | Methanesulfonic acid 2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c] fluoren-6-yl)-1-pyrazin-2-yl-ethyl ester | 0.70 mmol, 300 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(C1=NC=CN=C1)OS(=O)(=O)C)CCC4 | C22H26N4O3S
reactant | dimethylamine | CNC | C2H7N
solvent | water | 20 mL | O | H2O
product | dimethyl-[2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyrazin-2-yl-ethyl]-amine | 60 mg | CN(C(CN1C=2C=CC(=CC2C=2C3N(CCC12)CCC3)C)C3=NC=CN=C3)C | C23H29N5
